US09126949B2
To a solution of 2,6-dimethyl aniline (50 gm) in 1,4-dioxane (400 ml) and pyridine (40 ml) was added iodine (157.3 gm) slowly at 0° C. The solution was stirred for 1 hour at 0° C. and the temperature was raised to room temperature. The solution was stirred for 1 hour at room temperature and then added a saturated solution of sodium thiosulfate. The layers were separated and the aqueous layer was extracted with methylene chloride. The combined organic layers were dried with anhydrous sodium sulfate and the solvent was evaporated in vacuum to obtain 91.8 gm of 4-iodo-2,6-dimethyl benzenamine.

reactant | 2,6-dimethyl aniline | 50 gm | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | iodine | 157.3 gm | II | I2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 400 ml | O1CCOCC1 | C4H8O2
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 4-iodo-2,6-dimethyl benzenamine | 91.8 gm | IC1=CC(=C(C(=C1)C)N)C | C8H10IN
